US07423158B2
A mixture of an ethanolic solution of 5-(3-Bromo-phenyl)-pent-4-yn-1-ol (Example 3, step a) (1 g, 4.2 mmol)and platinum oxide (24 mg, 10% mol) was placed on a parr shaker for 4 hrs under 40 psi of hydrogen. The reaction mixture was filtered through celite. The filtrate was concentrated in vacuo. The resultant residu was purified by flash chromatography on silica gel, 1st 10:1 hexane/ ethyl acetate, 2nd 2:1 hexane/ethyl acetate as eluent, to give 5-(3-bromophenyl)pentan-1-ol as a clear oil, 0.75 g (74% yield); 1H NMR (DMSO-d6) δ 1.2 (m, 2H); 1.3 (m, 2H); 1.5 (m, 2 H); 3.3 (q, 2H); 4.3 (t, 1 H); 7.2 (m, 2 H); 7.4 (m, 2 H) MS [(+)ESI] m/z=243 [M−H]+.

reactant | 5-(3-Bromo-phenyl)-pent-4-yn-1-ol | BrC=1C=C(C=CC1)C#CCCCO | C11H11BrO
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 24 mg | [Pt]=O
product | 5-(3-bromophenyl)pentan-1-ol | 74% yield | BrC=1C=C(C=CC1)CCCCCO | C11H15BrO
